US09102621B2
5-Chloro-6-(1,1,1,3,3,3-hexafluoropropan-2-yloxy)pyridin-3-amine
3-Chloro-2-(1,1,1,3,3,3-hexafluoropropan-2-yloxy)-5-nitropyridine (Preparation 51, 2.55 g, 7.9 mmol), ammonium chloride (2.50 g, 46.7 mmol) and iron powder (1.70 g, 30.4 mmol) were suspended in a mixture of ethanol (10 mL) and water (3 mL). The suspension was heated for 3 hours under reflux then allowed to cool to room temperature. The reaction mixture was filtered on a celite pad and washed with ethanol. The filtrate was concentrated in vacuo and the residue partitioned between water and EtOAc. The aqueous layer was further extracted with EtOAc (2×25 mL). The combined organics were dried over magnesium sulfate and concentrated in vacuo. The resulting crude was purified by silica gel chromatography eluting with 50% diethyl ether in heptane to afford the title compound as a light yellow oil (2.0 g, 87%).

reactant | 3-Chloro-2-(1,1,1,3,3,3-hexafluoropropan-2-yloxy)-5-nitropyridine | 7.9 mmol, 2.55 g | ClC=1C(=NC=C(C1)[N+](=O)[O-])OC(C(F)(F)F)C(F)(F)F | C8H3ClF6N2O3
reactant | ammonium chloride | 46.7 mmol, 2.50 g | [Cl-].[NH4+]
solvent | ethanol | 10 mL | C(C)O | C2H6O
solvent | water | 3 mL | O | H2O
catalyst | iron | 30.4 mmol, 1.70 g | [Fe] | Fe
product | 5-Chloro-6-(1,1,1,3,3,3-hexafluoropropan-2-yloxy)pyridin-3-amine | 2.0 g, 87% | ClC=1C=C(C=NC1OC(C(F)(F)F)C(F)(F)F)N | C8H5ClF6N2O
